US05495020
To 2,4,5-trifluoro-3-methyl-N-acetylaniline (1.94 g) is added conc. sulfuric acid (19 ml) and the mixture is cooled to 0° C. Thereto potassium nitrate (2 g) is added below 20° C. and the mixture is stirred for 15 minutes. The reaction mixture is poured into ice-water, extracted with dichloromethane and the extract is dried. The solvent is distilled off under reduced pressure to give 2,4,5-trifluoro-3-methyl-6-nitro-N-acetylaniline (2.08 g), as white crystals.

reactant | 2,4,5-trifluoro-3-methyl-N-acetylaniline | 1.94 g | FC1=C(NC(C)=O)C=C(C(=C1C)F)F | C9H8F3NO
reactant | sulfuric acid | 19 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium nitrate | 2 g | [N+](=O)([O-])[O-].[K+]
product | 2,4,5-trifluoro-3-methyl-6-nitro-N-acetylaniline | 2.08 g | FC1=C(NC(C)=O)C(=C(C(=C1C)F)F)[N+](=O)[O-] | C9H7F3N2O3
